US07304050B2
7-{7-[5-(Acetylamino-methyl)-2-oxo-oxazolidin-3-yl]-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl}-1-cyclopropyl-6,8-difluoro-4-oxo-1,4-dihydro-quinoline-3-carboxylic Acid
The title compound was prepared in a procedure analogous to that used in Example 6, using N-[2-Oxo-3-(2,3,4,5-tetrahydro-1H-benzo[c]azepin-7-yl)-oxazolidin-5-ylmethyl]-acetamide (0.25 g) and 1-Cyclopropyl-6,7,8-trifluoro-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid (0.23 g). The product was triturated with EtOH to purify. MS (APCI)AP+, 567. NMR (DMSO6)1.1-1.22 (m, 4H), 1.78 (s, 3H), 1.87 (brm, 2H), 3.0 (brs, 2H), 3.38 (t, 2H), 3.7 (m, 3H), 4.04 (t, 2H), 4.43 (s, 2H), 4.61 (m, 1H), 7.13 (d, 1H), 7.26 (d, 1H), 7.35 (s, 1H), 7.78 (d, 1H), 8.2 (t, 1H), 8.61 (s, 1H).

reactant | N-[2-Oxo-3-(2,3,4,5-tetrahydro-1H-benzo[c]azepin-7-yl)-oxazolidin-5-ylmethyl]-acetamide | 0.25 g | O=C1OC(CN1C1=CC2=C(CNCCC2)C=C1)CNC(C)=O | C16H21N3O3
reactant | 1-Cyclopropyl-6,7,8-trifluoro-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 0.23 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
product | 7-{7-[5-(Acetylamino-methyl)-2-oxo-oxazolidin-3-yl]-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl}-1-cyclopropyl-6,8-difluoro-4-oxo-1,4-dihydro-quinoline-3-carboxylic Acid | C(C)(=O)NCC1CN(C(O1)=O)C1=CC2=C(CN(CCC2)C2=C(C=C3C(C(=CN(C3=C2F)C2CC2)C(=O)O)=O)F)C=C1 | C29H28F2N4O6
